US06048852
c) N-[2'-Benzyl-3'-mercaptopropionyl]cysteine
N-(S-Acetyl-2'-benzyl-3'-mercaptopropionyl)cystine methyl ester (50 mg) was dissolved in degassed methanol (5 ml) and treated with sodium sulfide nonahydrate (300 mg) and dithiothreitol (122 mg). The mixture was stirred at RT for 14 hours then poured into water (30 ml) and extracted with chloroform (2×20 ml), the aqueous phase acidified to pH 1-2 and re-extraced with ethyl acetate (3×10 ml), dried, (MgSO4) filtered and evaporated to a clear oil, the title compound as an approximately equimolar mixture of diastereoisomers, in 86% yield.

reactant | N-(S-Acetyl-2'-benzyl-3'-mercaptopropionyl)cystine methyl ester | 50 mg | COC([C@H](CSSC[C@@H](C(=O)O)N)NC(C(CSC(C)=O)CC1=CC=CC=C1)=O)=O | C19H26N2O6S3
reactant | sodium sulfide nonahydrate | 300 mg | O.O.O.O.O.O.O.O.O.[S-2].[Na+].[Na+]
reactant | dithiothreitol | 122 mg | SC[C@@H](O)[C@H](O)CS | C4H10O2S2
reactant | water | 30 ml | O | H2O
solvent | methanol | 5 ml | CO | CH4O
product | N-[2'-Benzyl-3'-mercaptopropionyl]cysteine | 86% yield | C(C1=CC=CC=C1)C(C(=O)N[C@@H](CS)C(=O)O)CS | C13H17NO3S2
